US08729095B2
To a mixed solvent solution of benzyl 2′-(3-tert-butoxy-2,2-dimethyl-3-oxopropoxy)-3-fluorobiphenyl-4-carboxylate (15.0 g) in water (75 ml) and tetrahydrofuran (300 ml) was added 10% palladium carbon (4.50 g), followed by stirring at room temperature for 7 hours under a hydrogen atmosphere. The reaction solution was filtered through Celite, and washed with methanol, and then the filtrate was concentrated under reduced pressure. The residue was dissolved in dichloromethane, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford 2′-(3-tert-butoxy-2,2-dimethyl-3-oxopropoxy)-3-fluorobiphenyl-4-carboxylic acid (8.38 g).

reactant | benzyl 2′-(3-tert-butoxy-2,2-dimethyl-3-oxopropoxy)-3-fluorobiphenyl-4-carboxylate | 15.0 g | C(C)(C)(C)OC(C(COC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)OCC1=CC=CC=C1)F)(C)C)=O | C29H31FO5
solvent | water | 75 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 4.50 g | [C].[Pd]
product | 2′-(3-tert-butoxy-2,2-dimethyl-3-oxopropoxy)-3-fluorobiphenyl-4-carboxylic acid | 8.38 g | C(C)(C)(C)OC(C(COC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)O)F)(C)C)=O | C22H25FO5
